US06518257B1
(ii) Production of N-[4′-[1-hydroxy-1-(1H-imidazol-4-yl)-3-ethylbutyl][1,1′-biphenyl]-3-yl]acetamide
By the reaction in the same manner as in Example 41-(ii) using N-[4′-[1-hydroxy-3-methyl-1-(1-trityl-1H-imidazol-4-yl)butyl][1,1′-biphenyl]-3-yl]acetamide (1.31 g), 10% palladium carbon (386 mg) and 1N hydrochloric acid (0.637 ml), the colorless amorphous title compound (141 mg) was obtained.

reactant | N-[4′-[1-hydroxy-3-methyl-1-(1-trityl-1H-imidazol-4-yl)butyl][1,1′-biphenyl]-3-yl]acetamide | 1.31 g | OC(CC(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)NC(C)=O | C41H39N3O2
reactant | hydrochloric acid | 1N, 0.637 ml | Cl | ClH
catalyst | palladium carbon | 386 mg | [C].[Pd]
product | N-[4′-[1-hydroxy-1-(1H-imidazol-4-yl)-3-ethylbutyl][1,1′-biphenyl]-3-yl]acetamide | 141 mg | OC(CC(C)CC)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)NC(C)=O | C23H27N3O2
